datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1C[NH2+]CCSCC[NH+:21]([H:20])C1.CO/C(C)=C\C(=O)[O-:10]>>C1C[NH2+]CCSCC[NH:21]C1.CO/C(C)=C\C(=O)[O:10][H:20] 10=20;20,21=21",
"CSc1ccc2c(ccc[n+:21]2[H:20])c1.NCC[NH:10]CCCO>>CSc1ccc2c(ccc[n:21]2)c1.NCC[NH+:10](CCCO)[H:20] 10=20;20,21=21",
"C#CC(C)(C)[N+:21](C)(C(C)(C)C#C)[H:20].O=S(=O)(c1cccc(C(F)(F)F)c1)[NH-:10]>>C#CC(C)(C)[N:21](C)C(C)(C)C#C.O=S(=O)(c1cccc(C(F)(F)F)c1)[NH:10][H:20] 10=20;20,21=21",
"Clc1ccc2cc([O-:10])ccc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Clc1ccc2cc([O:10][H:20])ccc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1CCCC(C)C1C(=O)[O-:10].Cc1cccc(Cl)c1/C(=N/CCC[N+:21](C)(C)[H:20])c1ccccc1>>CC1CCCC(C)C1C(=O)[O:10][H:20].Cc1cccc(Cl)c1/C(=N/CCC[N:21](C)C)c1ccccc1 10=20;20,21=21",
"C(CSCCc1nnn[n-:10]1)SCCc1nnn[nH]1.CC(C)NC(=S)[S:21][H:20]>>C(CSCCc1nnn[n:10]1[H:20])SCCc1nnn[nH]1.CC(C)NC(=S)[S-:21] 10=20;20,21=21",
"CC1NCCC[NH:10]1.Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O:21][H:20])nc1N>>CC1NCCC[NH+:10]1[H:20].Cc1c[n+]([C@@H]2C[C@@H](O)[C@H](CO)O2)c([O-:21])nc1N 10=20;20,21=21",
"CC(=O)C1=CC=C([O:21][H:20])C(=O)C=C1.S=C(N1CCCC1)[S-:10]>>CC(=O)C1=CC=C([O-:21])C(=O)C=C1.S=C(N1CCCC1)[S:10][H:20] 10=20;20,21=21",
"CC(C)(O)C(C(=O)[O-:10])c1ccc(C2CCCCC2)cc1.CC1=C2C(=[N+:21]([H:20])c3ccccc32)N(C)C(Cl)=C1>>CC(C)(O)C(C(=O)[O:10][H:20])c1ccc(C2CCCCC2)cc1.CC1=C2C(=[N:21]c3ccccc32)N(C)C(Cl)=C1 10=20;20,21=21",
"CC#CC#CC=C=CC(O)CCC(=O)[O:21][H:20].NC(Cc1nc[n-:10]c1I)C(=O)[O-]>>CC#CC#CC=C=CC(O)CCC(=O)[O-:21].NC(Cc1nc[n:10]([H:20])c1I)C(=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].Oc1ccc(CC[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.Oc1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(Br)c(C(=O)[O:21][H:20])c1.O=C1C=Cc2ccccc2C=C1[O-:10]>>Cc1ccc(Br)c(C(=O)[O-:21])c1.O=C1C=Cc2ccccc2C=C1[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH:10]2)c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1cc([C@@H]2CCC[NH2+]2)nc([C@@H]2CCC[NH+:10]2[H:20])c1 10=20;20,21=21",
"C[C@@H]1CCCC[C@@H]1[NH2+:21][H:20].O=Cc1cc(Cl)ccc1[O-:10]>>C[C@@H]1CCCC[C@@H]1[NH2:21].O=Cc1cc(Cl)ccc1[O:10][H:20] 10=20;20,21=21",
"Nc1nc[nH+]c2c1[n+:21]([H:20])cn2CCOCP(=O)(O)O.O=C(c1csc2ccccc12)[O-:10]>>Nc1nc[nH+]c2c1[n:21]cn2CCOCP(=O)(O)O.O=C(c1csc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"C[Si](C)(C[NH2:10])c1ccccc1.Nn1cnnc1[S:21][H:20]>>C[Si](C)(C[NH2+:10][H:20])c1ccccc1.Nn1cnnc1[S-:21] 10=20;20,21=21",
"C1=C(c2nc3ccccc3o2)C2CC[N+:21]1([H:20])CC2.Nc1nc[n:10]c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12>>C1=C(c2nc3ccccc3o2)C2CC[N:21]1CC2.Nc1nc[n+:10]([H:20])c2ncn([C@H]3O[C@H](CO)[C@@H](O)[C@H]3O)c12 10=20;20,21=21",
"CCc1cc(-c2ccccc2)nnc1NCC[N:10]1CCOCC1.[NH3+]C(Cc1c(I)[nH]c(I)[n+:21]1[H:20])C(=O)[O-]>>CCc1cc(-c2ccccc2)nnc1NCC[N+:10]1([H:20])CCOCC1.[NH3+]C(Cc1c(I)[nH]c(I)[n:21]1)C(=O)[O-] 10=20;20,21=21",
"C(=C/C[N+:21]1([H:20])CCCCC1)\CN1CCCCC1.CC(=O)[C@@H]1C[C@@H]1C(=O)[O-:10]>>C(=C/C[N:21]1CCCCC1)\CN1CCCCC1.CC(=O)[C@@H]1C[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(S(=O)(=O)[N-:10]CCC(=O)[O-])cc1.O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O:21][H:20]>>Cc1ccc(S(=O)(=O)[N:10](CCC(=O)[O-])[H:20])cc1.O=C1C=C(S(=O)(=O)[O-])c2[nH]ncc2/C1=N/[O-:21] 10=20;20,21=21",
"NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2+:21][H:20].O=C(c1c[nH]c2ccccc12)[O-:10]>>NC1=[NH+]C(CC(=O)[O-])C(=O)N1CCCC(C(=O)[O-])[NH2:21].O=C(c1c[nH]c2ccccc12)[O:10][H:20] 10=20;20,21=21",
"COc1cc(C(C)=O)ccc1[O:21][H:20].FC(F)(F)c1ccc2ccc[n:10]c2c1>>COc1cc(C(C)=O)ccc1[O-:21].FC(F)(F)c1ccc2ccc[n+:10]([H:20])c2c1 10=20;20,21=21",
"C[N+:21](C)(CCCCC(=O)Oc1cccc([N+](=O)[O-])c1)[H:20].c1c[nH+]c(Cc2[nH]cc[n:10]2)[nH]1>>C[N:21](C)CCCCC(=O)Oc1cccc([N+](=O)[O-])c1.c1c[nH+]c(Cc2[nH]cc[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"CCCCNc1cc[nH+]c([O-])[n:10]1.Cc1ccc([N+:21](CC2CO2)(CC2CO2)[H:20])cc1>>CCCCNc1cc[nH+]c([O-])[n+:10]1[H:20].Cc1ccc([N:21](CC2CO2)CC2CO2)cc1 10=20;20,21=21",
"Cc1ccc([NH:10]C)cc1.O=C(O)[C@@H]1CC[C@@H](C(=O)[O:21][H:20])[Se]1>>Cc1ccc([NH+:10](C)[H:20])cc1.O=C(O)[C@@H]1CC[C@@H](C(=O)[O-:21])[Se]1 10=20;20,21=21",
"CC(CC(c1ccccc1)c1ccccc1)[N:10]1CCCCC1.[H:20][PH3+:21]>>CC(CC(c1ccccc1)c1ccccc1)[N+:10]1([H:20])CCCCC1.[PH3:21] 10=20;20,21=21",
"CNc1nc[n:10]c2[nH]ncc12.O=C(/C=C\c1ccc(O)cc1)[O:21][H:20]>>CNc1nc[n+:10]([H:20])c2[nH]ncc12.O=C(/C=C\c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n:10]c12.[NH3+]c1ccc(-c2c[n+:21]([H:20])c(-c3ccc(Br)cc3)o2)cc1>>CN(C)c1ccc([N+](=O)[O-])c2c(NCCC[NH+](C)C)c3ccccc3[n+:10]([H:20])c12.[NH3+]c1ccc(-c2c[n:21]c(-c3ccc(Br)cc3)o2)cc1 10=20;20,21=21",
"CCC[N:10]1CC(O[Si](C)(C)C)C1.Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n+:21]2[H:20])n1>>CCC[N+:10]1([H:20])CC(O[Si](C)(C)C)C1.Cc1cc(O)n(-c2nc([O-])c(C)c(C)[n:21]2)n1 10=20;20,21=21",
"CC(C(O)c1ccccc1)[NH:10]C.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C(O)c1ccccc1)[NH+:10](C)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
